US08685969B2
A solution of benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate (0.4846 g, 0.900 mmol) and 10% palladium on carbon (0.192 g, 0.180 mmol) in tetrahydrofuran (Ratio: 1.000, Volume: 23.99 ml) and methanol (Ratio: 1.5, Volume: 36.0 ml) was hydrogenated. After 1.5 h, the reaction was flushed with nitrogen, filtered through a wad of CELITE®, and rinsed. The filtrate was concentrated in vacuo, dissolved in EtOAc (100 mL), dried over MgSO4, filtered and concentrated in vacuo to give 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indole-1-carboxamide (0.3800 g, 0.846 mmol, 94% yield) as a solid, LC/MS (M+H)=405.18.

reactant | benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.900 mmol, 0.4846 g | C(N)(=O)C1=NC(=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)C)C | C31H30N4O5
catalyst | palladium on carbon | 0.180 mmol, 0.192 g | [Pd] | Pd
solvent | tetrahydrofuran | 23.99 ml | O1CCCC1 | C4H8O
solvent | methanol | 36.0 ml | CO | CH4O
product | 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indole-1-carboxamide | 0.846 mmol, 0.3800 g, 94% yield | NC=1C(=C(C=CC1)C1=C(N=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C)C | C23H24N4O3
